US07893058B2
Step 5: 2-Bromo-3a, 5,6,6a-tetrahydro-furo[2,3-c]pyrrol-4-one
A solution of 2-bromo-5-(4-methoxy-benzyl)-3a,5,6,6a-tetrahydro-furo[2,3-c]pyrrol-4-one (0.16 g, 0.498 mmol) in TFA (1.8 mL) and anisole (0.2 mL) is stirred at 80° C. for 2.5 hours. The reaction mixture is then diluted with ethyl acetate and neutralised with sat. NaHCO3. The aqueous layer is extracted with ethyl acetate (3×) and the combined organic layers are dried over MgSO4, filtered and concentrated in vacuo. The crude compound is purified by silica gel column chromatography eluting with 1:1 petroleum ether:ethyl acetate followed by 1:4 petroleum ether:ethyl acetate, to afford the title compound (79 mg, 78%).

reactant | 2-bromo-5-(4-methoxy-benzyl)-3a,5,6,6a-tetrahydro-furo[2,3-c]pyrrol-4-one | 0.498 mmol, 0.16 g | BrC1=CC2C(CN(C2=O)CC2=CC=C(C=C2)OC)O1 | C14H14BrNO3
solvent | TFA | 1.8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | anisole | 0.2 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-Bromo-3a, 5,6,6a-tetrahydro-furo[2,3-c]pyrrol-4-one | 79 mg, 78% | BrC1=CC2C(CNC2=O)O1 | C6H6BrNO2
